US07718657B2
tert-Butyl 4-((4-aminobenzo[d]oxazol-2-yl)methyl)piperazine-1-carboxylate.
To a solution of tert-butyl 4-((4-nitrobenzo[d]oxazol-2-yl)methyl)piperazine-1-carboxylate (5.97 g, 16.6 mmol, 1.0 equiv) in MeOH (49 mL) was added Pd/C (10% Pd, wet, 2.99 g). The resulting suspension was fixed with a hydrogen balloon and sparged with hydrogen while stirring was maintained. After 1 h, the mixture was filtered through a pad of celite and concentrated in vacuo to provide the title compound as an off-white solid (5.0 g, 91%).

reactant | tert-butyl 4-((4-nitrobenzo[d]oxazol-2-yl)methyl)piperazine-1-carboxylate | 16.6 mmol, 5.97 g, 1.0 equiv | [N+](=O)([O-])C1=CC=CC2=C1N=C(O2)CN2CCN(CC2)C(=O)OC(C)(C)C | C17H22N4O5
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 49 mL | CO | CH4O
catalyst | Pd/C | 2.99 g | [Pd] | Pd
product | tert-Butyl 4-((4-aminobenzo[d]oxazol-2-yl)methyl)piperazine-1-carboxylate | 5.0 g, 91% | NC1=CC=CC2=C1N=C(O2)CN2CCN(CC2)C(=O)OC(C)(C)C | C17H24N4O3
